### ISSUE TITLE
`Meta.check` Fails After `revert`

### ISSUE THREAD

**Issue by lenianiva** [leanprover/lean4#11978]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

This is an issue with delayed assigned metavariables. In the context of a metavariable, if the target type contains another metavariable, and some free variable gets reverted, `Meta.check` fails.

### Context

https://leanprover.zulipchat.com/#narrow/channel/239415-metaprogramming-.2F-tactics/topic/.60Meta.2Echeck.60.20fails.20after.20revert/with/563285554

### Steps to Reproduce

1. Execute the following snippet either in LSP or `lean --run`

```lean
import Lean
open Lean

#eval do
  let statement ← instantiateMVars $ ← Elab.Term.elabTerm (← `(term|forall (n m: Nat) (h: n = m), n.succ = m.succ)) .none
  Meta.forallTelescope statement λ _fvars target => do
  let .some (β, _, _) := (← instantiateMVars target).eq? | throwError "Goal is not an Eq"
  let u ← Meta.mkFreshLevelMVar
  let α ← Meta.mkFreshExprSyntheticOpaqueMVar (mkSort u)
  let f ← Meta.mkFreshExprSyntheticOpaqueMVar (.forallE .anonymous α β .default)
  let a₁ ← Meta.mkFreshExprSyntheticOpaqueMVar α
  let a₂ ← Meta.mkFreshExprSyntheticOpaqueMVar α
  let h ← Meta.mkFreshExprSyntheticOpaqueMVar (← Meta.mkEq a₁ a₂)
  let fvars := (← h.mvarId!.getDecl).lctx.foldl (init := []) λ acc decl => acc ++ [decl.fvarId]
  let (_, h') ← h.mvarId!.revert #[fvars[2]!] true
  h'.withContext do
    Meta.check (← h'.getType)
```

**Expected behavior:**

`Meta.check` succeeds, so nothing gets printed.

**Actual behavior:**

```
Mystery.lean:4:0: error: Application type mismatch: The argument
  ?m.5
has type
  ?m.3
but is expected to have type
  ?m.3
in the application
  Eq ?m.5
```

Note that the two `?m.3` are different. Set `pp.all true` to see.

### Versions

`Lean (version 4.28.0-nightly-2026-01-12, x86_64-unknown-linux-gnu, commit e56351da7ae15673a5bc2b83e7fb70e1fbd988ca, Release)`

Also occurs on 4.27.0

on Arch Linux

Also happens in Lean v4.26.0

### Additional Information

This is related to #5279

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Is there a reason you are re-reading the fvars? It seems that
```
logInfo m!"{_fvars.toList == fvars.map mkFVar}"
```
is true.

**Comment by lenianiva** [comment]
> Is there a reason you are re-reading the fvars? It seems that
> 
> ```
> logInfo m!"{_fvars.toList == fvars.map mkFVar}"
> ```
> 
> is true.

I extracted it from a larger example. The re-reading should not be necessary.

**Comment by Kha** [comment]
The most truthful specification of `Meta.check` is that it does exactly the checks required by its uses in core. Could you say more about what you use it for?

**Comment by lenianiva** [comment]
> The most truthful specification of `Meta.check` is that it does exactly the checks required by its uses in core. Could you say more about what you use it for?

I'm only using `Meta.check` as a placeholder for what I want to do in this case, which is to probe the types of subexpressions in `h'.getType`, and they end in failure as well.

**Comment by kmill** [comment]
Here's a minimization:
```lean
import Lean

open Lean

elab "check" : tactic =>
  Elab.Tactic.withMainContext do
    withOptions (fun s => s.setBool `trace.Meta.isDefEq true) do
    Meta.check (← Elab.Tactic.getMainTarget)

example (n m : Nat) (h : n = m) : True := by
  have : @Eq ?a ?bar ?baz := (by
    revert h
    check -- fails
    )

example (n m : Nat) (h : n = m) : True := by
  have : @Eq _ ?bar ?baz := (by
    revert h
    check -- succeeds
    )
```
If you set `set_option pp.mvars.delayed true`, then look at all the types, you can see than in the goal `@Eq (?m.9 h) (?m.11 h) (?m.13 h)`, that `?m.11 h : ?m.10 h` and `?m.13 h : ?m.12 h`. The elaborator isn't able to unify `?m.9 h =?= ?m.10 h` or `?m.9 h =?= ?m.12 h`.

This isn't an issue with `Meta.check`, but with either (1) MetavarContext's abstraction procedure not using the same delayed assignment metavariable each time, (2) isDefEq not being able to see these unify, or (3) conceptually, it's possible that using synthetic opaque metavariables in the type of a synthetic opaque metavariable is incorrect.

A workaround is using `Meta.withAssignableSyntheticOpaque`, which addresses (2). It doesn't assign any of the synthetic opaque metavariables in this example; it merely lets isDefEq see the types are defeq.
